US04044015
B. 1-methyl-2-(4-methoxyphenyl)imidazo[1,2-a]pyridinium iodide
To 2.23 g. of 2-(4-methoxyphenyl)imidazo[1,2-a]pyridine in 50 ml. of acetonitrile is added 2.84 g. of methyl iodide, and the resulting reaction mixture refluxed for 3 hrs. Additional methyl iodide (2 ml.) is added and reflux continued for 1 hour. The solids which precipitate on cooling are filtered and partially dissolved in boiling isopropanol and filtered. The isopropanol filtrate is cooled and treated with diethyl ether. The crystallized product is filtered and dried to give 1.03 g., m.p. 194°-196° C.

reactant | 2-(4-methoxyphenyl)imidazo[1,2-a]pyridine | COC1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C14H12N2O
reactant | methyl iodide | CI | CH3I
reactant | methyl iodide | 2 ml | CI | CH3I
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-methyl-2-(4-methoxyphenyl)imidazo[1,2-a]pyridinium iodide | [I-].C[N+]=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)OC | InChI=1S/C15H15N2O.HI/c1-16-14(11-17-10-4-3-5-15(16)17)12-6-8-13(18-2)9-7-12;/h3-11H,1-2H3;1H/q+1;/p-1
